US05977178
A solution of N-((1R)-1-(3-hydroxypropylcarbamoyl)-2-phenylethyl)-N-methylcarbamic acid tert-butylester (965 mg, 2.86 mmol) in dichloromethane (10 mL) was cooled to 0° C. 4-(dimethylamino)pyridine (35 mg, 0.29 mmol), triethylamine (0.60 mL, 4.29 mmol), and acetic acid anhydride (0.32 mL, 3.43 mmol) were added. The reaction mixture was stirred for 5 hours, while it was warming slowly to room temperature. The reaction mixture was diluted with dichloromethane (100 mL) and washed with 10% sodium hydrogensulfate solution. The aqueous phase was extracted with dichloromethane (2×50 mL). The organic phases were combined and washed with saturated sodium hydrogen carbonate solution. They were dried over magnesium sulfate. The solvent was removed in vacuo, and the crude product was purified by flash chromatography on silica (90 g) with ethyl acetate/dichloromethane (1:3 to 1:1) to give 890 mg of 3-((2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-phenylpropionylamino)propyl acetate.

reactant | N-((1R)-1-(3-hydroxypropylcarbamoyl)-2-phenylethyl)-N-methylcarbamic acid tert-butylester | 2.86 mmol, 965 mg | C(C)(C)(C)OC(N(C)[C@H](CC1=CC=CC=C1)C(NCCCO)=O)=O | C18H28N2O4
reactant | triethylamine | 4.29 mmol, 0.60 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid anhydride | 3.43 mmol, 0.32 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 0.29 mmol, 35 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-((2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-phenylpropionylamino)propyl acetate | 890 mg | C(C)(=O)OCCCNC([C@@H](CC1=CC=CC=C1)N(C)C(=O)OC(C)(C)C)=O | C20H30N2O5
